US07223788B2
3-Fluoro-4-(4-methylpiperidin-1-yl)benzoic acid
Methyl 3-fluoro-4-(4-methylpiperidin-1-yl)benzoate was treated with lithium hydroxide by method P. This resulted in the product with the molecular weight of 237.28 (C13H16FNO2); MS (ESI): 238 (M+H+).

reactant | Methyl 3-fluoro-4-(4-methylpiperidin-1-yl)benzoate | FC=1C=C(C(=O)OC)C=CC1N1CCC(CC1)C | C14H18FNO2
reactant | lithium hydroxide | [OH-].[Li+]
product | 3-Fluoro-4-(4-methylpiperidin-1-yl)benzoic acid | FC=1C=C(C(=O)O)C=CC1N1CCC(CC1)C | C13H16FNO2
